US05708005
[2-(2-chloro-6-methoxyquinolin-4-yl)ethenyl]dimethylamine
2-Chloro-6-methoxy-4-methylquinoline (25 g, 0.12 mol) and tert-butoxybis(dimethylamino)methane (Bredereck's reagent) (30 g, 0.17 mol) was stirred under heating at 120° C. for 1.5 hours. After cooling the reaction mixture, the precipitated crystals were washed with diisopropyl ether to obtain the title compound (29.2 g, 92%).

reactant | 2-Chloro-6-methoxy-4-methylquinoline | 0.12 mol, 25 g | ClC1=NC2=CC=C(C=C2C(=C1)C)OC | C11H10ClNO
reactant | tert-butoxybis(dimethylamino)methane | 0.17 mol, 30 g | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | [2-(2-chloro-6-methoxyquinolin-4-yl)ethenyl]dimethylamine | 29.2 g, 92% | ClC1=NC2=CC=C(C=C2C(=C1)C=CN(C)C)OC | C14H15ClN2O
